US08956840B2
Evaluation of Wild-Type Ketoreductases for Reduction of 5-((4S)-2-oxo-4-phenyl(1,3-oxazolidin-3-yl))-1-(4-fluorophenyl)pentane-1,5-dione
KREDs described in Table 5 of Example 1 are screened using NADH and NADPH as co-factors and glucose dehydrogenase/glucose or isopropylalcohol (“IPA”) as co-factor regeneration system. 100 μl of cell lysate was added to a deep well plate (Costar #3960) containing 25 μl 5 mg/ml Na-NADP (Oriental Yeast) and 2 mM MgSO4 in 100 mM triethanolamine(chloride) (pH7.0), and 125 μl isopropyl alcohol containing 2 g/L (S)-1-(4-Fluoro-phenyl)-5-(2-oxo-4-phenyl-oxazolidin-3-yl)-pentane-1,5-dione. After sealing the plates with aluminum/polypropylene laminate heat seal tape (Velocity 11 (Menlo Park, Calif.), Cat#06643-001), reactions were run for at least 16 hrs at ambient temperature. At the end of the reaction 1 ml acetonitrile (for reversed phase HPLC) or MTBE (for normal phase HPLC) was added per well. Plates were resealed, shaken for 20 minutes, and centrifuged (4000 rpm, 10 min, 4° C.). 200 ul of the organic layer was transferred into a new shallow-well microtiter plate for analysis.

reactant | NADH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | NADPH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | MgSO4 | 2 mM | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | (S)-1-(4-Fluoro-phenyl)-5-(2-oxo-4-phenyl-oxazolidin-3-yl)-pentane-1,5-dione | FC1=CC=C(C=C1)C(CCCC(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O)=O | C20H18FNO4
reactant | aluminum polypropylene | [Al].C(C(C)[*:2])[*:1]
solvent | MTBE | CC(C)(C)OC | C5H12O
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | isopropyl alcohol | 125 μl | C(C)(C)O | C3H8O
product | 5-((4S)-2-oxo-4-phenyl(1,3-oxazolidin-3-yl))-1-(4-fluorophenyl)pentane-1,5-dione | O=C1C(C=CC=C1)[C@@H]1N(COC1)C(CCCC(=O)C1=CC=C(C=C1)F)=O | C20H20FNO4
